* C:\Users\sirmo\OneDrive\Cal Poly Files\9. Spring 2018\CPE 329\ZB-GM-CPE-329\Assignments\P3\Subckt Sim\SchmittTriggerLM386.asc
V1 N003 0 SINE(2.75 0.25 1)
V2 Vcc 0 3.3
V3 Vss 0 -3.3
C1 V- N003 1µ
XU2 N001 V- 0 0 Vo Vcc NC_01 N002 LM386
C2 N002 N001 1µ
R1 0 V- 1Meg
R2 Vo 0 1k
* CONNECTIONS: Gain 1
*              |   Non-Inverting Input
*              |   |   Inverting Input
*              |   |   |   Gnd
*              |   |   |   |   Vout
*              |   |   |   |   |   Vs
*              |   |   |   |   |   |   Bypass
*              |   |   |   |   |   |   |   Gain 8
*              |   |   |   |   |   |   |   |
*              1   2   3   4   5   6   7   8
.SUBCKT LM386  g1 inn inp gnd out vs  byp  g8
 
* input emitter-follower buffers:
 
q1 gnd inn 10011 ddpnp
r1 inn gnd 50k
q2 gnd inp 10012 ddpnp
r2 inp gnd 50k
 
* differential input stage, gain-setting
* resistors, and internal feedback resistor:
 
q3 10013 10011 10008 ddpnp
q4 10014 10012 g1 ddpnp
r3 vs byp 15k
r4 byp 10008 15k
r5 10008 g8 150
r6 g8 g1 1.35k
r7 g1 out 15k
 
* input stage current mirror:
 
q5 10013 10013 gnd ddnpn
q6 10014 10013 gnd ddnpn
 
* voltage gain stage & rolloff cap:
 
q7 10017 10014 gnd ddnpn
c1 10014 10017 15pf
 
* current mirror source for gain stage:
 
i1 10002 vs dc 5m
q8 10004 10002 vs ddpnp
q9 10002 10002 vs ddpnp
 
* Sziklai-connected push-pull output stage:
 
q10 10018 10017 out ddpnp
q11 10004 10004 10009 ddnpn 100
q12 10009 10009 10017 ddnpn 100
q13 vs 10004 out ddnpn 100
q14 out 10018 gnd ddnpn 100
 
* generic transistor models generated
* with MicroSim's PARTs utility, using
* default parameters except Bf:
 
.MODEL ddnpn NPN(Is=10f Xti=3 Eg=1.11 Vaf=100
+ Bf=400 Ise=0 Ne=1.5 Ikf=0 Nk=.5 Xtb=1.5 Var=100
+ Br=1 Isc=0 Nc=2 Ikr=0 Rc=0 Cjc=2p Mjc=.3333
+ Vjc=.75 Fc=.5 Cje=5p Mje=.3333 Vje=.75 Tr=10n
+ Tf=1n Itf=1 Xtf=0 Vtf=10)
 
.MODEL ddpnp PNP(Is=10f Xti=3 Eg=1.11 Vaf=100
+ Bf=200 Ise=0 Ne=1.5 Ikf=0 Nk=.5 Xtb=1.5 Var=100
+ Br=1 Isc=0 Nc=2 Ikr=0 Rc=0 Cjc=2p Mjc=.3333
+ Vjc=.75 Fc=.5 Cje=5p Mje=.3333 Vje=.75 Tr=10n
+ Tf=1n Itf=1 Xtf=0 Vtf=10)
 
.ENDS
.tran 5
.backanno
.end
