* C:\Users\sirmo\OneDrive\Cal Poly Files\9. Spring 2018\CPE 329\ZB-GM-CPE-329\Assignments\P3\Subckt Sim\SchmittTriggerMOS.asc
V1 N001 0 SINE(0 4 1k)
V2 VDD 0 3.3
V3 Vss 0 -3.3
M1 N003 N001 0 0 RIT4007N7
M2 Vo N001 N003 N003 RIT4007N7
M3 Vo N001 N002 N002 RIT4007P7
M4 N002 N001 VDD VDD RIT4007P7
M5 VDD Vo N003 N003 RIT4007N7
M6 0 Vo N002 N002 RIT4007P7
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\sirmo\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m
.MODEL RIT4007P7 PMOS (LEVEL=7
+VERSION=3.1 CAPMOD=2 MOBMOD=1
+TOX=5E-8 XJ=2.26E-7 NCH=1E15 NSUB=8E14 XT=8.66E-8
+VTH0=-1.65 U0= 400 WINT=1.0E-6 LINT=1E-6
+NGATE=5E20 RSH=1347 JS=3.51E-8 JSW=3.51E-8 CJ=5.28E-8 MJ=0.5 PB=0.94
+CJSW=1.19E-10 MJSW=0.5 PBSW=0.94 PCLM=5
+CGSO=4.5E-10 CGDO=4.5E-10 CGBO=5.75E-10)
.MODEL RIT4007N7 NMOS (LEVEL=7
+VERSION=3.1 CAPMOD=2 MOBMOD=1
+TOX=4E-8 XJ=2.9E-7 NCH=4E15 NSUB=5.33E15 XT=8.66E-8
+VTH0=1.4 U0= 1300 WINT=2.0E-7 LINT=1E-7
+NGATE=5E20 RSH=300 JS=3.23E-8 JSW=3.23E-8 CJ=6.8E-8 MJ=0.5 PB=0.95
+CJSW=1.26E-10 MJSW=0.5 PBSW=0.95 PCLM=5
+CGSO=3.4E-10 CGDO=3.4E-10 CGBO=5.75E-10)
.backanno
.end
